US05043345
5.16 A. 3-(4-chloro-1,2,5-thiadiazol-3-yl)-1-ethylpyridinium iodide
A solution of 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine (1.13 g, 5.7 mmol) and ethyl iodide (22.65 g, 17 mmol) in acetone (15 ml) was stirred at 40° C. for 16 h. The precipitate was collected by filtration giving the title compound to yield 510 mg (26%).

reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine | 5.7 mmol, 1.13 g | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | ethyl iodide | 17 mmol, 22.65 g | C(C)I | C2H5I
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 3-(4-chloro-1,2,5-thiadiazol-3-yl)-1-ethylpyridinium iodide | [I-].ClC=1C(=NSN1)C=1C=[N+](C=CC1)CC | InChI=1S/C9H9ClN3S.HI/c1-2-13-5-3-4-7(6-13)8-9(10)12-14-11-8;/h3-6H,2H2,1H3;1H/q+1;/p-1
